US06699818B1
d) 1-Methyl-4-trifluoromethyl-1H-pyrrole-3-carboxylic Acid [4-(4-Chlorophenyl)-pyridin-3-yl]amide
A solution of 0.54 g (2.8 mmol) 1-methyl-4-trifluoromethylpyrrole-3-carboxylic acid and 0.39 g (3.1 mmol) oxalyl chloride in 20 ml methylene chloride is stirred for 2 hours at room temperature in the presence of a catalytic amount of DMF. Then the acid chloride solution is slowly added to a solution of 0.57 g (2.8 mmol) 3-amino4-(4′-chlorophenyl)pyridine, 0.34 g (3.4 mmol) triethylamine and 15 ml methylene chloride. The resulting mixture is then stirred for 16 hours at room temperature. After the addition of ethylacetate, the organic phase is washed twice with water. After drying the organic phase over sodium sulfate, the solvent is removed in a water let vacuum. The obtained crude product is purified by column chromatography over silica gel (eluant: hexane/THF 1:3). Yield: 0.4 g 1-methyl-4-trifluoromethyl-1-1-pyrrole-3-carboxylic acid [4-(4′-chlorophenyl)pyridin-3yl]amide in the form of yellowish crystals; m.p.: 178-180° C.

reactant | 1-methyl-4-trifluoromethylpyrrole-3-carboxylic acid | 2.8 mmol, 0.54 g | CN1C=C(C(=C1)C(F)(F)F)C(=O)O | C7H6F3NO2
reactant | oxalyl chloride | 3.1 mmol, 0.39 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-amino4-(4′-chlorophenyl)pyridine | 2.8 mmol, 0.57 g | NC=1C=NC=CC1C1=CC=C(C=C1)Cl | C11H9ClN2
reactant | triethylamine | 3.4 mmol, 0.34 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Methyl-4-trifluoromethyl-1H-pyrrole-3-carboxylic Acid [4-(4-Chlorophenyl)-pyridin-3-yl]amide | ClC1=CC=C(C=C1)C1=C(C=NC=C1)NC(=O)C1=CN(C=C1C(F)(F)F)C | C18H13ClF3N3O
